US08211908B2
To a solution of 1.1 g of 1-(1,3-dioxolan-2-yl)methanamine in 10 mL of N,N-dimethylformamide, 1.6 mL of triethylamine and 2.0 g of 2-chloro-6-methoxy-3-nitropyridine were added at room temperature, and the mixture was stirred at 55 to 65° C. for 1 hour. The reaction mixture was cooled to room temperature, and ethyl acetate and water were then added thereto. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed sequentially with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 2.7 g of N-(1,3-dioxolan-2-ylmethyl)-6-methoxy-3-nitropyridin-2-amine as a yellow solid.

reactant | 1-(1,3-dioxolan-2-yl)methanamine | 1.1 g | O1C(OCC1)CN | C4H9NO2
reactant | 2-chloro-6-methoxy-3-nitropyridine | 2.0 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.6 mL | C(C)N(CC)CC | C6H15N
product | N-(1,3-dioxolan-2-ylmethyl)-6-methoxy-3-nitropyridin-2-amine | 2.7 g | O1C(OCC1)CNC1=NC(=CC=C1[N+](=O)[O-])OC | C10H13N3O5
